data/mechanism_extracts/OrgChemFront/10.1039_d2qo01947g.json
{"doi": "10.1039_d2qo01947g", "journal": "OrgChemFront", "is_review": false, "rxn_class_summary": "Electrochemical tandem trifluoromethylation–fluorination of styrenes using CF3SO2Na as CF3 source and Et3N·3HF as fluoride source to give β-fluoro-α-trifluoromethyl products", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of CF3SO2Na at carbon rod anode generates CF3 radical (with loss of SO2); the benzylic radical adduct is further anodically oxidized to a benzylic carbocation; protons are reduced at the Pt cathode to H2", "key_intermediates": [{"name": "CF3 radical generated from anodic oxidation/desulfonylation of CF3SO2Na", "smiles": "[CH0]([F])([F])[F]", "role": "reactive"}, {"name": "Benzylic carbon radical I from CF3 addition to styrene C=C", "smiles": null, "role": "reactive"}, {"name": "Benzylic carbocation II from anodic oxidation of radical I", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes CF3SO2Na with loss of SO2 to give CF3 radical, which adds to the styrene C=C to form benzylic radical I; I is further oxidized at the anode to benzylic cation II, which is trapped by fluoride from Et3N·3HF; protons are reduced at the Pt cathode to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction completely shut down, but no TEMPO–CF3 adduct detected by GC-MS; attributed to TEMPO being oxidized to TEMPO+ at lower potential than CF3SO2Na"}, {"name": "BHT (butylated hydroxytoluene)", "smiles": "CC1=CC(C(C)(C)C)=C(O)C(C(C)(C)C)=C1", "purpose": "radical_trap", "observation": "Reaction shut down; BHT–CF3 adduct 3a detected by GC-MS, supporting CF3 radical"}, {"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Both addition product 3b and coupling product 3c detected by GC-MS, corroborating radical pathway"}, {"name": "CF3SO2Na (CV probe)", "smiles": "[Na+].[O-]S(=O)(=O)C(F)(F)F", "purpose": "redox_probe", "observation": "Oxidation peak at 1.14 V vs Ag/AgNO3 confirms CF3SO2Na is anodically oxidized first; pink trace with 1a shows catalytic current"}, {"name": "TBACl (CV control)", "smiles": "CCCC[N+](CCCC)(CCCC)CCCC.[Cl-]", "purpose": "redox_probe", "observation": "Oxidation of Cl- at 1.44 V matches 1.37 V peak, assigned to chloride from DCE substitution"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "cyclic_voltammetry"], "evidence_strength": "medium", "notes": "Authors propose radical–polar crossover: radical addition followed by anodic oxidation to cation, then F- nucleophilic addition. TEMPO failed as trap due to its lower oxidation potential than CF3SO2Na (ineffective TEMPO/TEMPO+ conversion); BHT and DPE successfully trapped the CF3 radical. CV also revealed a side oxidation peak at 1.37 V assigned to chloride generated by nucleophilic substitution of DCE solvent by CF3SO2Na."}
